US05731348
Part C: (3R,5S)-1-t-Butoxycarbonyl-5-hydroxymethyl-3 -methylpyrrolidine-2-one
To a solution of (3R,5S)-1-t-butoxycarbonyl-5-t-butyldiphenylsiloxymethyl-3-methyl-pyrrolidine-2-one (17.8 g, 38.1 mmol) and glacial acetic acid (2 eq) in dry THF (50 mL) at 0° C. was added a 1.0M solution of tetrabutylammonium fluoride in THF (150 mL, 150 mmol). The solution was allowed to warm room temperature and stir overnight. Ethyl acetate (500 mL) was added and the organic phase extracted with aqueous ammonium chloride (20%, 3 x 200 mL). The combined aqueous phases were extracted with ethyl acetate (200 mL). The combined organic phases were washed with brine (500 mL), dried over Na2SO4, filtered and evaporated to dryness. The crude product was purified by filtration through silica gel, eluted with 70% EtOAc in hexane to give the product as a clear oil, which was carried on for next step without further characterization.

reactant | (3R,5S)-1-t-butoxycarbonyl-5-t-butyldiphenylsiloxymethyl-3-methyl-pyrrolidine-2-one | 38.1 mmol, 17.8 g | C(C)(C)(C)OC(=O)N1C([C@@H](C[C@H]1CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C)=O | C27H37NO4Si
reactant | acetic acid | 2 eq | C(C)(=O)O | C2H4O2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | Ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mmol, 150 mL | C1CCOC1 | C4H8O
product | (3R,5S)-1-t-Butoxycarbonyl-5-hydroxymethyl-3 -methylpyrrolidine-2-one | C(C)(C)(C)OC(=O)N1C([C@@H](C[C@H]1CO)C)=O | C11H19NO4
